US04460596
19.4 g of N-[(3-thienylcarbonyl)methyl]amine hydrochloride, 36 g of sodium bicarbonate and 21 g of 4-chlorobenzoyl chloride are treated in the same manner as described in Preparation 1-(3). 29 g of N-(4-chlorobenzoyl)-N-[(3-thienylcarbonyl)methyl]amine are thereby obtained.

reactant | N-[(3-thienylcarbonyl)methyl]amine hydrochloride | 19.4 g | Cl.S1C=C(C=C1)C(=O)CN
reactant | sodium bicarbonate | 36 g | C([O-])(O)=O.[Na+]
reactant | 4-chlorobenzoyl chloride | 21 g | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
product | N-(4-chlorobenzoyl)-N-[(3-thienylcarbonyl)methyl]amine | 29 g | ClC1=CC=C(C(=O)NCC(=O)C2=CSC=C2)C=C1 | C13H10ClNO2S
